US08431573B2
4-[(2S)-2-(Hydroxymethyl)-1-pyrrolidinyl]-2-(3-methylbenzyl)-6-oxo-1,6-dihydro-5-pyrimidine-carbonitrile
0.1 g (0.37 mmol) of 2-(3-methylbenzyl)-4-(methylsulphanyl)-6-oxo-1,6-dihydro-5-pyrimidinecarbonitrile is heated with 0.11 g (1.1 mmol) of (S)-(+)-2-pyrrolidinemethanol in 3 ml of acetonitrile at 90° C. under argon for five days. After cooling to room temperature, the crude product is purified by preparative HPLC. 0.035 g (29% of theory) of the title compound is obtained as a colourless solid.

reactant | 2-(3-methylbenzyl)-4-(methylsulphanyl)-6-oxo-1,6-dihydro-5-pyrimidinecarbonitrile | 0.37 mmol, 0.1 g | CC=1C=C(CC=2NC(C(=C(N2)SC)C#N)=O)C=CC1 | C14H13N3OS
reactant | (S)-(+)-2-pyrrolidinemethanol | 1.1 mmol, 0.11 g | N1[C@@H](CCC1)CO | C5H11NO
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 4-[(2S)-2-(Hydroxymethyl)-1-pyrrolidinyl]-2-(3-methylbenzyl)-6-oxo-1,6-dihydro-5-pyrimidine-carbonitrile | OC[C@H]1N(CCC1)C=1N=C(NC(C1C#N)=O)CC1=CC(=CC=C1)C | C18H20N4O2
